US07179819B2
A mixture of ethyl (E)-4-[2-(2-pyrrolidinyl)ethenyl]benzoate (434 mg, 1.77 mmol), pentafluorophenyl 4-[N′-(2-methylphenyl)ureido]phenylacetate (797 mg, 1.77 mmol), Et3 N (0.37 mL, 2.66 mmol) in DMF (15 mL) was stirred for 15 hr. The mixture was diluted with EtOAc (300 mL). The solution was washed with brine (2×200 mL), dried over MgSO4, and evaporated off in vacuo. The residue was chromatographed on silica-gel with CHCl3-EtOAc (4:1) as eluent to give 906 mg (q.y.) ethyl (E)-4-[2-[1-[4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]ethenyl]benzoate as a brown oil. 1H-NMR (CDCl3) δ 1.39 (3 H, t, J=7.3 Hz), 1.83–2.20 (4 H, series of m), 2.24 (3 H, d, J=4.9 Hz), 3.63 (4 H, m), 4.36 (2 H, q, J=7.3 Hz), 4.62 and 4.84 (total 1 H, m), 6.18–6.47 (2 H, m), 7.03–8.02 (14 H, series of m).

reactant | ethyl (E)-4-[2-(2-pyrrolidinyl)ethenyl]benzoate | 1.77 mmol, 434 mg | N1C(CCC1)/C=C/C1=CC=C(C(=O)OCC)C=C1 | C15H19NO2
reactant | pentafluorophenyl 4-[N′-(2-methylphenyl)ureido]phenylacetate | 1.77 mmol, 797 mg | CC1=C(C=CC=C1)NC(NC1=CC=C(C=C1)CC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C22H15F5N2O3
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | ethyl (E)-4-[2-[1-[4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]ethenyl]benzoate | 906 mg | CC1=C(C=CC=C1)NC(NC1=CC=C(C=C1)CC(=O)N1C(CCC1)/C=C/C1=CC=C(C(=O)OCC)C=C1)=O | C31H33N3O4
